US06800648B2
8-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-7,8-dihydro-3H-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-2-one
0.85 g (2.08 mmole) of {(2R)-8-hydroxy-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate and 1.13 g (5.70 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole were combined in DMSO (40 mL) and heated at 60° C. under nitrogen for 6 hours. After completion, the reaction was cooled to room temperature and partitioned between 300 mL each of ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuum to a viscous oil. The crude oil was dissolved in methylene chloride and was heated at reflux in the presence of carbonyl diimidazole (1.02 g) for 4 hours. The reaction was allowed to cool to room temperature and the solvent was removed in vacuum. The residue was column chromatographed on silica gel using first 20% hexane/methylene chloride, then methylene chloride and finally 2% methanol/methylene chloride as eluant. The product fractions were combined and concentrated in vacuum to give 0.080 g of the (S)-enantiomer of the title compound as a light yellow solid, m.p. 202° C.

reactant | {(2R)-8-hydroxy-7-[(methoxycarbonyl)amino]-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 2.08 mmole, 0.85 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)NC(=O)OC)O | C18H19NO8S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 5.70 mmole, 1.13 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 8-[4-(1H-Indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-7,8-dihydro-3H-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-2-one | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)CC1COC2=CC=C3C(=C2O1)OC(N3)=O | C23H21N3O4
